Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / metformin / Naprosyn
 
Attending: ___.
 
Chief Complaint:
? cellulitis
 
Major Surgical or Invasive Procedure:
Fistulogram with ___ on ___.

 
History of Present Illness:
___ yo male with ESRD on HD, IDDM and history of left
brachiocephalic vein occlusion ___ s/p stenting who presents
from Presentation Rehab on recommendation from his outpatient
nephrologist with left arm redness and swelling of entire left
arm c/f restenosis of brachiocephalic vein and overlying
cellulitis. 

His left arm swelling and redness has been worsening over past 2
weeks. He has noted the arm has become more painful over the 
last
___ days. He is unable to provide a history of the pattern of
spread for the erythema. 

He was evaluated by transplant nephrology in clinic today who
noted c/f restenosis of left brachiocephalic vein stent. They
were also concerned for cellulitis and therefore deferred
fistulogram and angioplasty. Dr. ___ a low suspicion
for graft infection and no systematic signs of infection. They
recommended arm elevation, exercise, antibiotic treatment and
then proceeding with a fistulogram/angioplasty prior to 
discharge
if edema does not resolve with treatment of cellulitis. 

Regarding his current AV graft, it was placed in left upper
extremity on on ___.  He has required 2 procedures
since graft creation for arm swelling. His first procedure was 
in
___ and at that time a significant stenosis at the 
venous
anastomosis was also angioplastied and stented.  The second
procedure was in ___, and involved
recanalization of a brachiocephalic occlusion and stenting of 
the
brachiocephalic. 

- In the ED, initial vitals were: 
T 97.1 HR 77 BP 154/76 RR 18 SPO2 99% RA

- Exam was notable for:
LUE with +thrill, arm edematous to axilla with erythema and
induration of forearm, neurovascularly intact, dorsal forearm
ulcer with surrounding erythema
RLE with ulcer and s/p 1 toe amputation without
erythema/warmth/induration

- Labs were notable for:
WBC: 7.7, Hgb 13.1, 
Na: 135, K 5.4, Cl: 93, BUN: 28, BUN 35, Cr 4.5 Ag: 14 

- Studies were notable for: 
Left Upper Extremity Venous U/S: 
IMPRESSION:
 No evidence of deep vein thrombosis in the left upper 
extremity.

- The patient was given:
Vancomycin ___ @ 1700

-Transplant Surgery was consulted 
Staffed with Dr. ___. Recommend admission to medicine for
antibiotics. ___ may consider fistulogram if swelling does not
improve with elevation and antibiotics. Transplant surgery will
follow along as inpatient.

On arrival to the floor, patient is without complaints. he
confimrs the above story.
 
Past Medical History:
ESRD stage 5 on HD with L AV fistula
DM
HTN
Chronic anemia
History of Septic R Hip ___
R foot ulcer s/p ___ metatarsal resection (___), s/p ___ 
metatarsal removal (___)
L brachiocephalic vein occlusion and stenting

 
Social History:
___
Family History:
Mother with colon cancer and hyperlipidemia. Father with type 2 
DM.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: T 97.6 BP 184 / 10 HR 84 RR 18O2: 96Ra
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Left arm with pitting edema from hand to shoulder.
Arm is warm with dark red/purple blanchable erythema worst on
medial aspect of upper arm. 2+ radial artery pulses bilaterally.
Sensation intact in left arm. Right foot with superficial
ulceration over lateral aspect near base of ___ toe. 
SKIN: Warm. Cap refill <2s. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ grip strenght, ___ hip flexor strenght..
Normal sensation.

DISCHARGE PHYSICAL EXAM:
======================
24 HR Data (last updated ___ @ 814)
    Temp: 97.7 (Tm 97.8), BP: 154/86 (146-169/79-88), HR: 72
(69-75), RR: 18, O2 sat: 98% (96-98), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: Left arm with pitting edema from hand to shoulder.
Arm is warm with light red blanchable erythema worst on medial
aspect of upper arm. 2+ radial artery pulses bilaterally.
Sensation intact in left arm. Right foot with superficial
ulceration over lateral aspect near base of ___ toe. 
SKIN: Warm. Cap refill <2s. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ grip strength, ___ hip flexor strength. 
Normal
sensation.
 
Pertinent Results:
ADMISSION LABS:
=============
___ 01:50PM   WBC-7.7 RBC-4.75 HGB-13.1* HCT-43.6 MCV-92 
MCH-27.6 MCHC-30.0* RDW-17.1* RDWSD-57.8*
___ 01:50PM   NEUTS-61.4 ___ MONOS-11.6 EOS-2.0 
BASOS-0.8 IM ___ AbsNeut-4.73 AbsLymp-1.82 AbsMono-0.89* 
AbsEos-0.15 AbsBaso-0.06
___ 01:50PM   GLUCOSE-109* UREA N-35* CREAT-4.5* SODIUM-135 
POTASSIUM-7.5* CHLORIDE-93* TOTAL CO2-28 ANION GAP-14
___ 01:56PM   LACTATE-1.1 K+-5.4

MICROBIO:
========
negative blood culture

IMAGING:
=======
UNILAT UP EXT VEINS US LEFTStudy Date of ___ 5:50 ___
No evidence of deep vein thrombosis in the left upper extremity.

___. Left upper extremity AV  fistulagram. 
2. Axillary, subclavian and super vena cava venography. 
3. Balloon angioplasty of the occluded brachiocephalic stent. 
4. Balloon angioplasty of the small amount of clot proximal to 
the 
brachiocephalic stent. 

1. Complete occlusion of the brachiocephalic vein stent with 
severe central 
collaterals. 
2. Restoration of flow after balloon angioplasty. 

DISCHARGE LABS:
=============
___ 06:10AM BLOOD WBC-7.2 RBC-4.39* Hgb-12.0* Hct-39.9* 
MCV-91 MCH-27.3 MCHC-30.1* RDW-16.6* RDWSD-55.8* Plt ___
___ 06:10AM BLOOD Glucose-61* UreaN-53* Creat-6.4*# Na-137 
K-5.4 Cl-92* HCO3-23 AnGap-22*
___ 06:10AM BLOOD Calcium-10.0 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ with IDDM, ESRD on HD MWF, and and history of 
left brachiocephalic vein occlusion ___ s/p stenting who 
presents with ___ weeks of left arm swelling and 1.5 weeks of 
erythema due to venous congestion/stenosis vs cellulitis. 

TRANSITIONAL ISSUES:
==================
[]Please continue IV Vancomycin with HD to complete 7 day 
course, last day of administration on ___. 

ACUTE/ACTIVE ISSUES:
====================
#Left arm edema with concern for Left brachiocephalic vein stent 
restenosis and cellulitis. 
Arm swelling is concerning for restenosis of left 
brachiocephalic vein occlusion which was noted on fistulogram in 
___ and s/p stenting. Patient was evaluated by 
interventional radiology and transplant surgery, underwent 
fistulogram with ___ on ___ with balloon angioplasty of 
brachiocephalic vein stent. Given erythema and edema patient was 
also treated with IV Vancomycin with HD. Plan for a 7 day course 
(___). 

#ESRD on HD ___ 
Pt currently with AV fistula for only access. Transplant surgery 
reports it is ok to use AV fistula as it is functioning now. 
Continued nephrocaps, sevelemer, Vitamin D, calcium acetate. 

#Hypertension:
Elevated BP on admission. Continued home metoprolol tartrate 
50mg BID and lisinopril 5mg 

CHRONIC/STABLE ISSUES:
======================
#Insulin Dependent Diabetes: Continue lantus 8 units at night 
and ISS. 

#Primary Prevention: Continue aspirin 81mg 

#HLD: Continue home atorvastatin 

#Anxiety: Continue home fluoxetine and home lorazepam 0.5mg 1 
tablet by mouth 3x weekly pre dialysis.

#GERD: Continue pantoprazole 40mg 

# CODE: full confirmed 
# CONTACT: ___ (HCP, Brother) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. LORazepam 0.5 mg PO THREE TIMES WEEKLY 
3. Metoprolol Tartrate 50 mg PO BID 
4. Atorvastatin 20 mg PO QPM 
5. Calcium Acetate 1334 mg PO TID W/MEALS 
6. FLUoxetine 20 mg PO DAILY 
7. Glargine 8 Units Bedtime
8. Pantoprazole 40 mg PO Q24H 
9. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
10. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
11. Nepro Carb Steady (nut.tx.imp.renal fxn,lac-reduc) 0.08 
gram-1.8 kcal/mL oral BID 
12. Glucagon Emergency Kit (human) (glucagon (human 
recombinant)) 1 mg injection ONCE:PRN hypoglycemia 
13. Aspirin 81 mg PO DAILY 
14. Nephrocaps 1 CAP PO DAILY 
15. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
16. Vitamin D ___ UNIT PO DAILY 
17. melatonin 5 mg oral DAILY 
18. Senna 8.6 mg PO QHS 
19. ProMod Protein (protein supplement) 30 ml oral BID 

 
Discharge Medications:
1.  Sarna Lotion 1 Appl TP TID  
2.  ___  MD to order daily dose IV HD PROTOCOL Sliding 
Scale 
Start: ___, First Dose: Next Routine Administration Time  
3.  Glargine 8 Units Bedtime 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 20 mg PO QPM  
7.  Calcium Acetate 1334 mg PO TID W/MEALS  
8.  FLUoxetine 20 mg PO DAILY  
9.  Glucagon Emergency Kit (human) (glucagon (human 
recombinant)) 1 mg injection ONCE:PRN hypoglycemia  
10.  Lisinopril 5 mg PO DAILY  
11.  LORazepam 0.5 mg PO THREE TIMES WEEKLY  
12.  melatonin 5 mg oral DAILY  
13.  Metoprolol Tartrate 50 mg PO BID  
14.  Nephrocaps 1 CAP PO DAILY  
15.  Nepro Carb Steady (nut.tx.imp.renal fxn,lac-reduc) 0.08 
gram-1.8 kcal/mL oral BID  
16.  Pantoprazole 40 mg PO Q24H  
17.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
18.  ProMod Protein (protein supplement) 30 ml oral BID  
19.  Senna 8.6 mg PO QHS  
20.  sevelamer CARBONATE 2400 mg PO TID W/MEALS  
21.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Thrombosis due to vascular prosthetic devices, implants and 
grafts

Secondary diagnosis
End Stage Renal Disease
Type 2 Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because your left arm was 
very swollen  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- In the hospital you continued your normal dialysis schedule
- We gave you IV antibiotics in case your arm was infected
- We performed a procedure to allow better blood flow in the 
veins in your arm

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___